US08895580B2
Step 2: Preparation of 5-bromo-3-fluoropyridine-2-carbonyl chloride
5-Bromo-3-fluoropyridine-2-carboxylic acid (0.40 g, 1.8 mmol) was dissolved in dichloromethane (8 mL), treated with thionyl chloride (0.80 mL, 11 mmol, 6 equiv) and the mixture was placed into a preheated oil bath at 45° C. for 3 hours. The mixture was concentrated in vacuo, providing the titled compound.

reactant | 5-Bromo-3-fluoropyridine-2-carboxylic acid | 1.8 mmol, 0.40 g | BrC=1C=C(C(=NC1)C(=O)O)F | C6H3BrFNO2
reactant | thionyl chloride | 11 mmol, 0.80 mL, 6 equiv | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
product | 5-bromo-3-fluoropyridine-2-carbonyl chloride | BrC=1C=C(C(=NC1)C(=O)Cl)F | C6H2BrClFNO
